US04814332
0.93 g of p-chlorophenacyl bromide is added to a solution of 0.64 g of 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazole in 20 ml of acetonitrile. After stirring at 60° for 6 hours, the mixture is left to stand for 16 hours and the product is removed by filtration and washed with ether. There is obtained 1-(p-chlorophenacyl)-3-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazolium bromide of melting point 242°.

reactant | p-chlorophenacyl bromide | 0.93 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazole | 0.64 g | CN(C1=CC=C(C=NN2C(=NC=C2)C2=CC=C(C=C2)OC)C=C1)C | C19H20N4O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(p-chlorophenacyl)-3-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazolium bromide | [Br-].ClC1=CC=C(C(C[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C2=CC=C(C=C2)OC)=O)C=C1 | InChI=1S/C27H26ClN4O2.BrH/c1-30(2)24-12-4-20(5-13-24)18-29-32-17-16-31(19-26(33)21-6-10-23(28)11-7-21)27(32)22-8-14-25(34-3)15-9-22;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
